US05004747
A stirred mixture of crude 3,3-bis(ethoxycarbonyl)-4-hydroxy-4-isopropyl-3,4-dihydroisocoumarin (76 g), glacial acetic acid (500 ml) and concentrated hydrochloric acid (800 ml) was refluxed for 18 hours. The cooled mixture was added to ice/water (3500 ml) and the precipitated solid filtered off and washed with water to give an off-white solid. This was treated with a solution of sodium hydrogen carbonate (40 g) in water (400 ml) and the resultant solution was extracted with diethyl ether (150 ml). The aqueous phase was acidified to pH1 with concentrated hydrochloric acid and the white precipitate filtered off, washed with water and dried at 70° C. to give 4-isopropylisocoumarin-3-carboxylic acid (20.16 g) in the form of a white solid [Elemental analysis: C, 67.4; H, 5.2%; calculated: C, 67.2; H, 5.17%; NMR (in DMSO-d6): 1.45 (6H, d, J=8 Hz), 3.85 (1H, sept, J=8 Hz), 7.6-8.4 (4H, m)].

reactant | 3,3-bis(ethoxycarbonyl)-4-hydroxy-4-isopropyl-3,4-dihydroisocoumarin | 76 g | C(C)OC(=O)C1(OC(=O)C2=CC=CC=C2C1(C(C)C)O)C(=O)OCC | C18H22O7
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 800 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 40 g | C(O)([O-])=O.[Na+]
solvent | water | 400 ml | O | H2O
product | 4-isopropylisocoumarin-3-carboxylic acid | 20.16 g | C(C)(C)C1=C(OC(=O)C2=CC=CC=C12)C(=O)O | C13H12O4
